US06518264B2
Chiral (+)-{(4-chlorophenyl)[4-(1,3-dioxolan-2-yl)phenyl]methyl}amine may be obtained in the following manner: 3.95 cm3 of ethylene glycol are poured into a suspension of 18.16 g of chiral (R*)-[(4-chlorophenyl)(4-formylphenyl)methyl]amine hydrochloride, in 1000 cm3 of toluene, and 0.82 g of para-toluenesulfonic acid monohydrate is added. After stirring for 20 hours at the reflux temperature, the reaction medium is cooled, washed with a saturated aqueous sodium bicarbonate solution, with water and with a saturated aqueous sodium chloride solution. The organic phase is dried over magnesium sulfate, filtered and concentrated to dryness under reduced pressure. The residue obtained is purified on a silica gel column (particle size 0.04-0.06 mm, diameter 8.4 cm, height 21.5 cm) with, as eluent, a cyclohexane/ethyl acetate (30/70 by volume) mixture, collecting 250 cm3 fractions. Fractions 23 to 30 are concentrated to dryness under reduced pressure (2.7 kpa). 1.39 g of chiral (+)-{(4-chlorophenyl)-[(4-(1,3-dioxolan-2-yl)phenyl]methyl}amine are obtained in the form of a yellow oil.

reactant | ethylene glycol | 3.95 cm3 | C(CO)O | C2H6O2
reactant | (R*)-[(4-chlorophenyl)(4-formylphenyl)methyl]amine hydrochloride | 18.16 g | Cl.ClC1=CC=C(C=C1)[C@@H](C1=CC=C(C=C1)C=O)N
reactant | para-toluenesulfonic acid monohydrate | 0.82 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | 1000 cm3 | C1(=CC=CC=C1)C | C7H8
product | (4-chlorophenyl)-[(4-(1,3-dioxolan-2-yl)phenyl]methyl}amine | ClC1=CC=C(C=C1)NCC1=CC=C(C=C1)C1OCCO1 | C16H16ClNO2
